US07119115B2
But starting with 0.3 g of 6,6-diphenyl-1-(4-toluenesulphonyl)-6,7-dihydro-1H-indazole-3ylamine, 0.095 cm3 of triethylamine and 0.088 cm3 of benzoyl chloride in cm3 of dichloromethane. After flash chromatography on a column of silica [eluent: dichloromethane], 0.14 g of N-(6,6-diphenyl-6,7-dihydro-1H-indazol-3-yl)benzamide is thus obtained in the form of a foam, the characteristics of which are as follows:

reactant | 6,6-diphenyl-1-(4-toluenesulphonyl)-6,7-dihydro-1H-indazole-3ylamine | 0.3 g | C1(=CC=CC=C1)C1(C=CC=2C(=NN(C2C1)S(=O)(=O)C1=CC=C(C=C1)C)N)C1=CC=CC=C1 | C26H23N3O2S
reactant | triethylamine | 0.095 cm3 | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.088 cm3 | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(6,6-diphenyl-6,7-dihydro-1H-indazol-3-yl)benzamide | 0.14 g | C1(=CC=CC=C1)C1(C=CC=2C(=NNC2C1)NC(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C26H21N3O
